US05059597
a) Ethyl N-(2,2-dimethoxyethyl)-carbamate
214 g (2 mol) of ethyl chloroformate are added dropwise to 214 g (2 mol) of aminoacetaldehyde dimethyl acetal in 1 l of toluene and 90 g of NaOH in 500 ml of water at 10° C. The mixture is stirred at room temperature for a further 2 hours and the aqueous phase is separated off, saturated with sodium chloride and extracted with toluene. The toluene solutions are dried over magnesium sulphate and concentrated and the residue is distilled.

reactant | ethyl chloroformate | 2 mol, 214 g | ClC(=O)OCC | C3H5ClO2
reactant | aminoacetaldehyde dimethyl acetal | 2 mol, 214 g | COC(CN)OC | C4H11NO2
reactant | NaOH | 90 g | [OH-].[Na+]
solvent | toluene | 1 l | C1(=CC=CC=C1)C | C7H8
solvent | water | 500 ml | O | H2O
product | Ethyl N-(2,2-dimethoxyethyl)-carbamate | COC(CNC(OCC)=O)OC | C7H15NO4
